US08859549B2
4-morpholinophthalazin-1(2H)-one
A mixture of 4-chlorophthalazin-1-one (0.49 g, 2.7 mmol), morpholine (2.4 mL, 27 mmol), and ethylene glycol (1.5 mL) was microwaved at 190° C. for 1 hour, and 210° C. for 30 minutes, diluted with EtOAc, washed with sat NaHCO3 and water, concentrated, adsorbed onto silica, and chromatographed (30% EtOAc/DCM) to give 300.0 mg of product as a white solid: 1H NMR (300 MHz, DMSO-d6) δ 12.13 (s, 1H), 8.27-8.20 (m, 1H), 8.00-7.79 (m, 3H), 3.86-3.77 (m, 4H), 3.07 (dd, J=10.2, 5.6, 4H).

reactant | 4-chlorophthalazin-1-one | 2.7 mmol, 0.49 g | ClC1=NNC(C2=CC=CC=C12)=O | C8H5ClN2O
reactant | morpholine | 27 mmol, 2.4 mL | N1CCOCC1 | C4H9NO
reactant | ethylene glycol | 1.5 mL | C(CO)O | C2H6O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-morpholinophthalazin-1(2H)-one | 300.0 mg | O1CCN(CC1)C1=NNC(C2=CC=CC=C12)=O | C12H13N3O2
